US06211215B1
Sodium hydride (440 mg) was added, at room temperature, to a solution of 1-[3-(4-hydroxyphenyl)propyl]imidazole (2.02 g) in N,N-dimethylformamide (50 ml). The mixture was stirred for 1.5 hour, to which was added 2-(4-benzyloxyphenyl)-4-chloromethyloxazole (3.60 g). The mixture was stirred for further 3 hours at 80° C. The reaction mixture was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and concentrated. The residue was subjected to a silica gel column chromatography. A crystalline product obtained from the fraction eluted with ethyl acetate-methanol (50:1, v.v) was recrystallized from ethanol to give 2-(4-benzyloxyphenyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole (2.88 g, 62%) as colorless prisms, mp 133-134° C.

reactant | Sodium hydride | 440 mg | [H-].[Na+]
reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | 2.02 g | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 2-(4-benzyloxyphenyl)-4-chloromethyloxazole | 3.60 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1OC=C(N1)CCl | C17H14ClNO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(4-benzyloxyphenyl)-4-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]oxazole | 2.88 g, 62% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1OC=C(N1)COC1=CC=C(C=C1)CCCN1C=NC=C1 | C29H27N3O3
